US06500247B1
9.22 parts of cyanuric chloride are suspended in 150 parts of ice-water. The pH is brought to 5 with 1 N sodium hydroxide solution and the temperature is kept at 0 to 2° C. A neutral solution of 29.80 parts of the copper complex of 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid in 250 parts of water is added to this suspension at 0 to 3° C. During the addition the pH is kept at 5 with a 2 N sodium hydroxide solution. After the addition, the mixture is stirred at 0 to 3° C. and pH 5 for about a further 2 hours. A solution of 5-[4,6-dichloro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid is obtained.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid | NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C20H17N5O9S2
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | water | O | H2O
product | 5-[4,6-dichloro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid | ClC1=NC(=NC(=N1)Cl)NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C23H16Cl2N8O9S2
